US07863025B2
A mixture of Novozym® 435 (2.43 g), molecular sieves (20.17 g), 1-octadecanol (4.04 g), and ethyl lactate (8.86 g) in a 150 mL beaker was maintained at 60° C. in a convection oven for 28 hours. Upon work-up, 2.0 g of cetyl lactate (40% yield) was obtained as a waxy white solid. The purity of the product was >98% as assessed by HPLC-RI.

reactant | 1-octadecanol | 4.04 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | ethyl lactate | 8.86 g | C(C(O)C)(=O)OCC | C5H10O3
product | cetyl lactate | 2.0 g, 40% yield | C(C(O)C)(=O)OCCCCCCCCCCCCCCCC | C19H38O3
